US06340704B1
6-Chloro-4-(4-chlorophenyl)naphtho[2,3-c]furan-1 (3 H)-one
To a suspension of sodium borohydride (0.5 g) in dimethoxyethane (20 ml), a solution of 6-chloro-4-(4-chlorophenyl) naphtho[2,3-c]furan-1,3-dione (1.0 g) in THF (20 ml) was added dropwise, followed by stirring at room temperature for 1 hour. The reaction mixture was poured into 1N hydrochloric acid to stop the reaction; the product was extracted with ethyl acetate. After being washed with water, the extract was dried over magnesium sulfate and concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography (eluent: hexane−ethyl acetate=3:1) and recrystallized from THF to yield the title compound (300 mg).

reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
reactant | 6-chloro-4-(4-chlorophenyl) naphtho[2,3-c]furan-1,3-dione | 1.0 g | ClC1=CC2=C(C3=C(C(OC3=O)=O)C=C2C=C1)C1=CC=C(C=C1)Cl | C18H8Cl2O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6-Chloro-4-(4-chlorophenyl)naphtho[2,3-c]furan-1 (3 H)-one | 300 mg | ClC1=CC2=C(C3=C(C(OC3)=O)C=C2C=C1)C1=CC=C(C=C1)Cl | C18H10Cl2O2
